US05612286
7. N-(n-Butylamino)carbonyl-2-methylsulfinylbenzenesulfonamide
10.2 g of n-Butyl isocyanate (0.10 mol) were added dropwise at 25° C. to a suspension of 20.1 g of 2-(methylsulfinyl)benzenesulfonamide (0.09 mol) in 250 ml of acetonitrile. 13.9 g of potassium carbonate (0.10 mol) were added, after which the refluxing mixture was stirred for 4 hours. After cooling to 0° C., the mixture was poured onto 400 ml ice/water, brought to a pH of 1 by adding concentrated hydrochloric acid and extracted with methylene chloride. The organic extracts were washed neutral with water and dried. After removal of the solvent, 25 g of the title compound (85% of theory) were obtained as a pale brown oil.

reactant | n-Butyl isocyanate | 0.10 mol, 10.2 g | C(CCC)N=C=O | C5H9NO
reactant | 2-(methylsulfinyl)benzenesulfonamide | 0.09 mol, 20.1 g | CS(=O)C1=C(C=CC=C1)S(=O)(=O)N | C7H9NO3S2
reactant | potassium carbonate | 0.10 mol, 13.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-(n-Butylamino)carbonyl-2-methylsulfinylbenzenesulfonamide | 25 g, 85% | C(CCC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)C | C12H18N2O4S2
